US05856474
2.28 g of 7-amino-3-formyl-3-cephem-4-carboxylic acid are bisilylated as described in example 19 with 5.4 ml of N,O-bis-(trimethylsilyl)-acetamide, reacted with phenylacetic acid chloride, and then hydrolysed with 0.4 ml of water. The hydrolysed reaction mixture is treated with 1 g of activated charcoal and then filtered. The yellow filtrate is mixed with 20 ml of a 10% solution of diphenyldiazomethane in dichloromethane, and then concentrated to 10 ml in vacuo. The product is precipitated from the residue of evaporation thus obtained by adding 100 ml of n-hexane. 7-phenylacetamido-3-formyl-3-cephem-4-carboxylic acid benzhydrylester is thus obtained as a slightly yellowish product.

reactant | 7-amino-3-formyl-3-cephem-4-carboxylic acid | 2.28 g | NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)O)C1=O | C8H8N2O4S
reactant | N,O-bis-(trimethylsilyl)-acetamide | 5.4 ml | CC(=N[Si](C)(C)C)O[Si](C)(C)C | C8H21NOSi2
reactant | phenylacetic acid chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | charcoal | 1 g | C | CH4
reactant | n-hexane | 100 ml | CCCCCC | C6H14
solvent | water | 0.4 ml | O | H2O
product | 7-phenylacetamido-3-formyl-3-cephem-4-carboxylic acid benzhydrylester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CC2=CC=CC=C2)=O)=O)C=O | C29H24N2O5S
